US05710121
2,2' methylenebis (4-nonylphenol) was prepared in a similar manner by replacement of the 1,1,3,3,-Tetramethylbutylphenol by 4-nonylphenol in the same mole ratio to formaldehyde.

reactant | 4-nonylphenol | C(CCCCCCCC)C1=CC=C(C=C1)O | C15H24O
reactant | formaldehyde | C=O | CH2O
product | 2,2' methylenebis (4-nonylphenol) | C(C1=C(C=CC(=C1)CCCCCCCCC)O)C1=C(C=CC(=C1)CCCCCCCCC)O | C31H48O2
